US04803226
Using the reductive amination procedure outlined in 1, 4,10-dichloro-9-anthracenecarbaldehyde and 2-methyl-2-amino-1,3-propanediol (Aldrich) gave 2-((4,10-dichloro-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride mp 261°-262° (dec.), (EtOH/Et2O), (C, H, Cl, N).

reactant | 4,10-dichloro-9-anthracenecarbaldehyde | ClC1=CC=CC2=C(C3=CC=CC=C3C(=C12)Cl)C=O | C15H8Cl2O
reactant | 2-methyl-2-amino-1,3-propanediol | CC(CO)(CO)N | C4H11NO2
product | 2-((4,10-dichloro-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride | Cl.ClC1=CC=CC2=C(C3=CC=CC=C3C(=C12)Cl)CNC(CO)(CO)C | InChI=1S/C19H19Cl2NO2.ClH/c1-19(10-23,11-24)22-9-15-12-5-2-3-6-14(12)18(21)17-13(15)7-4-8-16(17)20;/h2-8,22-24H,9-11H2,1H3;1H
